US08530491B2
d) 2,4-diamino-6-ethyl-5-(3-(2-(3-carboxypropoxy)phenoxy)propoxy)pyrimidine hydrochloride
To a suspension of 2,4-diamino-6-ethyl-5-(3-(2-(3-carboxypropoxy)phenoxy)propoxy)pyrimidine (0.3904 g, 1 mmol) in water (1 mL) was added one equivalent of concentrated HCl. The titled compound was obtained, after trituration of the reaction mixture with diethyl ether, as a white crystalline solid (0.4055 g, 95%). 1H NMR (400 MHz, DMSO-d6): 1.09 (3H, t, J=7.5 Hz), 1.90 (2H, m), 2.18 (2H, m), 2.38 (2H, t, J=7.3 Hz), 2.48 (2H, q, J=7.5 Hz), 3.89 (2H, t, J=6.1 Hz), 3.95 (2H, t, J=6.4 Hz), 4.12 (2H, t, J=6.0 Hz), 6.86-6.90 (2H, m), 6.95-7.02 (2H, m), 7.81 (1H, bs), 8.14 (1H, bs), 8.18 (1H, bs), 12.34 (1H, bs).

reactant | 2,4-diamino-6-ethyl-5-(3-(2-(3-carboxypropoxy)phenoxy)propoxy)pyrimidine | 1 mmol, 0.3904 g | NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)OCCCC(=O)O)CC | C19H26N4O5
reactant | HCl | one equivalent | Cl | ClH
solvent | water | 1 mL | O | H2O
product | 2,4-diamino-6-ethyl-5-(3-(2-(3-carboxypropoxy)phenoxy)propoxy)pyrimidine hydrochloride | Cl.NC1=NC(=C(C(=N1)N)OCCCOC1=C(C=CC=C1)OCCCC(=O)O)CC | InChI=1S/C19H26N4O5.ClH/c1-2-13-17(18(20)23-19(21)22-13)28-12-6-11-27-15-8-4-3-7-14(15)26-10-5-9-16(24)25;/h3-4,7-8H,2,5-6,9-12H2,1H3,(H,24,25)(H4,20,21,22,23);1H
